US07384967B2
2-Acetylamino-3-{2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-ylsulfanyl)-propionic acid methyl ester (156 mg, 35%) was prepared from 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (408 mg, 1 mmol) and 2-acetylamino-3-mercapto-propionic acid methyl ester (354 mg, 2 mmol) following the general procedure Q.

reactant | 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 1 mmol, 408 mg | BrC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C17H18BrN3O2S
reactant | 2-acetylamino-3-mercapto-propionic acid methyl ester | 2 mmol, 354 mg | COC(C(CS)NC(C)=O)=O | C6H11NO3S
product | 2-Acetylamino-3-{2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-5-ylsulfanyl)-propionic acid methyl ester | 156 mg, 35% | COC(C(CSC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)NC(C)=O)=O | C23H28N4O5S2
